US06007833
Synthesis of 7-Methyl-9-oxothioxanthene-3-carboxylic Acid Chloride (MTA-Cl)
The 7-methyl-9-oxothioxanthene-3-carboxylic acid (MTA), 50.0 g (0.185 mol), was dissolved in 350 ml of toluene and 415 ml (5.69 mol) of thionyl chloride using an overhead stirrer in a 2 liter 3-neck round bottom flask. N,N-Dimethylformamide (DMF), 2 ml, was added and the reaction was brought to reflux for 2 hours. After this time, the mixture was stirred at room temperature for 16 hours. The solvent was removed under vacuum and the product was azeotroped with 3×350 ml of toluene to remove the excess thionyl chloride. The product was recrystallized from 800 ml of chloroform and the resulting solid was placed in a vacuum oven for 16 hours at 45° C. to complete removal of solvent. The isolated product weighed 45.31 g (85% yield) and nuclear magnetic resonance spectroscopy (NMR) confirmed the desired structure. This product was used for the preparation of a photoreactive monomer as described in Example 2.

reactant | 7-methyl-9-oxothioxanthene-3-carboxylic acid | CC1=CC=C2SC=3C=C(C=CC3C(C2=C1)=O)C(=O)O | C15H10O3S
reactant | thionyl chloride | 5.69 mol, 415 ml | S(=O)(Cl)Cl | Cl2OS
reactant | N,N-Dimethylformamide | CN(C=O)C | C3H7NO
solvent | toluene | 350 ml | C1(=CC=CC=C1)C | C7H8
product | 7-Methyl-9-oxothioxanthene-3-carboxylic Acid Chloride | 85% yield | CC1=CC=C2SC=3C=C(C=CC3C(C2=C1)=O)C(=O)Cl | C15H9ClO2S
